US07321041B2
7-Phenyl-8-cyano-6H-[1,6]naphthyridin-5-one (Method E)
NaH (36 mg 1.5 mmol) was added in portions to anhydrous EtOH (4 mL) under N2. After 30 minutes, benzoylacetonitrile (218 mg, 1.5 mmol) was added, and the reaction mixture was allowed to stir under a nitrogen atmosphere for 30 minutes. 2-Chloronicotinamide (236 mg, 1.5 mmol) and CuOAc (36 mg, 0.3 mmol) were then added and the reaction mixture was heated to 50° C. The temperature was maintained for 10 days, after which time the reaction mixture was allowed to cool, was diluted with a 10% aqueous solution of NH4Cl (25 mL), and extracted with three portions of EtOAc (30 mL). The combined extracts were washed with brine, dried and evaporated to an oil which was triturated with CH2Cl2. The resulting solid (39 mg) was recrystallized from EtOH providing 30 mg (7.3%) of the title compound, mp 292-5° C.

reactant | NaH | 1.5 mmol, 36 mg | [H-].[Na+]
reactant | EtOH | 4 mL | CCO | C2H6O
reactant | benzoylacetonitrile | 1.5 mmol, 218 mg | C(C1=CC=CC=C1)(=O)CC#N | C9H7NO
reactant | 2-Chloronicotinamide | 1.5 mmol, 236 mg | ClC1=C(C(=O)N)C=CC=N1 | C6H5ClN2O
solvent | NH4Cl | 25 mL | [NH4+].[Cl-]
product | 7-Phenyl-8-cyano-6H-[1,6]naphthyridin-5-one | C1(=CC=CC=C1)C=1NC(C=2C=CC=NC2C1C#N)=O | C15H9N3O
